US04377695
7-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid ethyl ester
The product is produced as described in example 1 from 1.9 g. of NaH (80% suspension in mineral oil), 13.2 g. of 1-phenylbenzimidazolin-2-one (produced in usual manner by subjecting N-phenyl-o-phenylenediamine to reaction with phosgene), 120 cc. of DMF, 12.1 g. of 7-chloroenanthic acid ethyl ester and 1.9 g. of NaJ. Eluant in chromatographic purification: hexane/ethylacetate.

reactant | NaH | [H-].[Na+]
reactant | 1-phenylbenzimidazolin-2-one | C1(=CC=CC=C1)N1C(NC2=C1C=CC=C2)=O | C13H10N2O
reactant | 7-chloroenanthic acid ethyl ester | C(C)OC(CCCCCCCl)=O | C9H17ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid ethyl ester | C(C)OC(CCCCCCN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C22H26N2O3
